US09359338B2
Step 1: Synthesis of 4-chloro-6-(4-nitrophenoxyl)pyrimidine
Dissolve NaOH (2.8 g, 71.9 mmol) in water (90 mL) at 0° C. Add para-nitrophenol (10 g, 71.9 mmol), and then a solution of 4,6-dichloropyrimidine (10.7 g, 71.9 mmol) in acetone (90 mL). Stir the reaction at 70° C. for 24 hrs. Cool the reaction, collect the solid, rinse the solid with the mixture of acetone-water (1:1, 20 mL), and dry the solid to afford the title compound (18 g, 77.8%). MS: (M+Na): 274.0.

reactant | NaOH | 71.9 mmol, 2.8 g | [OH-].[Na+]
reactant | para-nitrophenol | 71.9 mmol, 10 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 4,6-dichloropyrimidine | 71.9 mmol, 10.7 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
solvent | water | 90 mL | O | H2O
solvent | acetone | 90 mL | CC(=O)C | C3H6O
product | 4-chloro-6-(4-nitrophenoxyl)pyrimidine | 18 g, 77.8% | ClC1=NC=NC(=C1)OC1=CC=C(C=C1)[N+](=O)[O-] | C10H6ClN3O3
